US04547506
A mixture of 3-methyl-2-bromopyridine (15 g), 1,3-diaminopropane (37.3 g) and pyridine (10 ml) was heated under reflux for 3 hr. After stripping, the residue was treated with 2N sodium hydroxide and the product extracted into chloroform. The extract was dried, stripped and the residue distilled at reduced pressure to give 2-(3-aminopropylamino)-3-methylpyridine (6.94 g) bp 100° C., 0.09 mm Hg. (ii) Sodium hydride (1.11 g) was dissolved in DMSO (20 ml) at 70°-75° C. The solution was cooled and 2-(3-aminopropylamino)-3-methylpyridine (6.94 g) in DMSO (10 ml) added at room temperature. Methyl iodide (6.56g) in DMSO (20 ml) was added dropwise maintaining the temperature at 20°-25° C. After a further 1 hr, water (100 ml) was added and the mixture extracted with chloroform. The chloroform extract was washed with 2N hydrochloric acid. The pH of the acid extract was raised to 9.5 and extracted with chloroform. The pH was raised further to 14 and again extracted with chloroform. After stripping the final extract, the residue was taken back up in water and the product extracted out again with ether. After drying (K2CO3), stripping the ether extract gave 2-[N-(3-aminopropyl)-N-methylamino]-3-methylpyridine (4.46 g) as an oil which was used without further purification. (iii) 2-[N-(3-aminopropyl)-N-methylamino]-3-methylpyridine (1.5 g) and 2-nitroamino-5-(6-methylpyrid-3-ylmethyl)pyrimid-4-one (1.46 g) were heated together under reflux in pyridine (10 ml) for 20 hr. The mixture was stripped and the residue triturated with water (pH adjusted to 7 with 6N hydrochloric acid) until a solid (2.1 g) was obtained. This was chromatographed (silica gel, 1-3% methanol/chloroform) and crystallised from acetone/water to give 2-[3-[N-methyl-N-(3-methylpyrid-2-yl)amino]-propylamino]-5-(6-methylpyrid-3-ylmethyl)pyrimid-4-one 1H2O, 0.48 g (22%) mp 83°-85° C.

reactant | 3-methyl-2-bromopyridine | 15 g | CC=1C(=NC=CC1)Br | C6H6BrN
reactant | 1,3-diaminopropane | 37.3 g | NCCCN | C3H10N2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2-(3-aminopropylamino)-3-methylpyridine | 6.94 g | NCCCNC1=NC=CC=C1C | C9H15N3
